US08420816B2
To a solution of 1-tert-butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate (91 mg, 0.3 mmol) in MeOH (2 mL) was added AcOH (5 drops) and tert-butyl 3-(aminomethyl)pyrrolidine-1-carboxylate (90 mg, 0.45 mmol). After stirring for 60 min at rt, the reaction mixture was cooled to 0° C. Sodium cyanoborohydride (57 mg, 0.9 mmol) was added, and the reaction mixture was stirred for an additional 3 h at rt. The mixture was quenched with water and extracted with ethyl acetate. The combined organic layers washed with saturated NaHCO3 and with brine, dried over Na2SO4, and concentrated in vacuo to give 125 mg of crude 1-tert-butyl 4-methyl 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate as a colorless oil which was used without further purification. [M+H] found 489.40.

reactant | 1-tert-butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 0.3 mmol, 91 mg | C(=O)C1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
reactant | tert-butyl 3-(aminomethyl)pyrrolidine-1-carboxylate | 0.45 mmol, 90 mg | NCC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Sodium cyanoborohydride | 0.9 mmol, 57 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
catalyst | AcOH | 5 drops | CC(=O)O | C2H4O2
product | 1-tert-butyl 4-methyl 3-(((1-(tert-butoxycarbonyl)pyrrolidin-3-yl)methylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 125 mg | C(C)(C)(C)OC(=O)N1CC(CC1)CNCC1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C25H36N4O6
